US04866205
Racemic [3aR-[3a alpha,4alpha-(1S*,2E),5beta,6a alpha] -4-[1-(hydroxy)-4,4-dimethyl-2-octenyl]hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one
The crude racemic (3aR,4S,5R,6aS)-[S*,R*-(E)]-rac-4-(4,4-Dimethyl-1-oxo-2-octenyl)hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one (10.0 g, 0.0342 mole) in methanol (150 mL) solution was cooled to 0° and treated with sodium borohydride (1.0 g, 0.0264 mole). After stirring for 1 hour at 0°, 3N HCl (15 mL) was added dropwise. The methanol was stripped off under reduced pressure using a 40° bath and the residue was partitioned between water and ether. The ether layer was washed with NaHCO3 solution and witb brine, dried over sodium sulfate and stripped of solvent. The residue of crude, racemic [3aR-[3a alpha,4alpha-(1S*,2E),5beta, 6a alpha]]-4-[1-(hydroxy)-4,4-dimethyl-2-octenyl]hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one was a viscous amber oil weighing 10.26 g (100%).

reactant | rac-4-(4,4-Dimethyl-1-oxo-2-octenyl)hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one | 0.0342 mole, 10.0 g | CC(C=CC(=O)C1C(CC2OC(CC21)=O)C)(CCCC)C | C18H28O3
reactant | sodium borohydride | 0.0264 mole, 1.0 g | [BH4-].[Na+]
reactant | HCl | 3N, 15 mL | Cl | ClH
solvent | methanol | 150 mL | CO | CH4O
product | 4-[1-(hydroxy)-4,4-dimethyl-2-octenyl]hexahydro-5-methyl-2H-cyclopenta[b]furan-2-one | OC(C=CC(CCCC)(C)C)C1C(CC2OC(CC21)=O)C | C18H30O3
